Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.3922206930000005
[H:1][O:2][C:3][O:4][C:5](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][O:2][C:3][O:4][C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.65668360114
[C:9]([H:10])[H:11].[O:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8]>>[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-2.58246552441
[H:13].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:12]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.23417132634
[C:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:9]/[O:10][H:11].[H:8]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][O:10][H:11],-3.07243038371
[H:13].[H:1][C:2]#[C:3][C:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.5319330602
[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13],-4.404720247519999
[O:1]=[C:2]([H:3])[O:4][C:5][H:6]>>[O:1]=[C:2][H:3].[O:4]=[C:5][H:6],0.71932970699
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][H:4],3.72334804227
[C:1]=[C:2]([O:3][H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][O:3][H:4].[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],3.4167351402900006
[C:3][C:4]([H:5])([H:6])[O:7][H:8].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[O:7][H:8],-3.34278349028
[C:1]#[C:5][H:6].[C:2]([H:3])#[C:4][O:7][C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11],-1.2820216573
[C:3](=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2]>>[H:1][O:2][C:3]([C:4]([H:5])[C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-2.94375000503
[C:2](\[O:3][H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-6.46887279718
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[H:8]>>[C:5]([H:6])([H:7])[H:8].[O:1]=[C:2]([H:3])[O:4],4.02559333394
[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],-1.7013312743
[H:1][C:2](=[O:3])[C:11](/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])([H:12])[H:13]>>[H:1][C:2]1[O:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13],0.0337665579999999
[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[H:1][C:2]([H:3])([H:4])/[C:5](=[C:6](/[H:7])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:8],1.81084142836
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7].[O:8][O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][O:9][C:10]([H:11])([H:12])[H:13],-0.0627819857890999
[H:8].[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])[O:9][H:10]>>[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10],-3.58542862296
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[C:1]([O:3][H:4])([H:6])[H:7].[C:2]#[C:5][O:8][H:9],2.94436133182
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:3]#[C:4][C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2],4.97720459585
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],0.976011363617
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:3],5.34743558685
[H:3].[O:1]=[C:2]=[C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])[H:9],-3.2258970290599995
[C:5]([H:6])=[C:7]([H:8])[O:9][H:10].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]([C:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-2.23587018511
[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[H:10].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9],3.05449661577
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-4.04087519147
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[C:10][H:11]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:10][H:11].[O:9],2.71199646488
